US08735586B2
5-Methoxy-2-methyl-3-phenyl-3H-imidazo[4,5-b]pyridine
The title compound was prepared with the analogous procedure described in example 3 using 2-Bromo-6-methoxy-3-nitropyridine (116 mg, 0.5 mmol) and N-phenylacetamide (81 mg, 0.6 mmol) as starting materials to yield the title compound as pale yellow solid (112 mg, 94%). mp 114-116° C. 1H NMR (DMSO) δ 2.56 (s, 3 H), 3.76 (s, 3 H), 6.85 (d, J=8.6 Hz, 1 H), 7.53-7.68 (m, 5 H), 8.12 (d, J=8.6 Hz, 1 H). 13C NMR δ 13.8, 53.4, 107.7, 122.9, 127.0, 128.0, 128.4, 129.2, 132.6, 144.1, 150.3, 161.1. HRMS (FAB): cal. for C14H14N3O [M-FH+]: 240.1237; found: 240.1234.

reactant | 2-Bromo-6-methoxy-3-nitropyridine | 0.5 mmol, 116 mg | BrC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5BrN2O3
reactant | N-phenylacetamide | 0.6 mmol, 81 mg | C1(=CC=CC=C1)NC(C)=O | C8H9NO
product | 5-Methoxy-2-methyl-3-phenyl-3H-imidazo[4,5-b]pyridine | 112 mg, 94% | COC1=CC=C2C(=N1)N(C(=N2)C)C2=CC=CC=C2 | C14H13N3O
